US07649110B2
A 100 mL pear-shaped flask was charged with butane-2,3-dione monooxime (2.1 g, 20.4 mmol), 4-(trifluoromethyl)benzaldehyde (3.0 mL, 22.4 mmol), and acetic acid (20 mL). The mixture was cooled to 0° C. A solution of 4N HCl in dioxane (7.0 mL, 28.0 mmol) was added dropwise to the reaction and the resultant mixture was stirred at 0° C. for 20 minutes. Diethyl ether (30 mL) was added to the reaction and the mixture was allowed to warm to room temperature overnight. The solvent was removed under reduced pressure and the resulting residue was taken up in water (300 mL). Conc. NH4OH(aq) was added to adjust the pH to 9.0. The mixture was extracted with ethyl acetate (2×75 mL), and the combined organic layers were washed with water (100 mL), followed by saturated brine (100 mL). The organic layer was dried (Na2SO4) and the solvent removed under reduced pressure. The resulting residue was purified via radial chromatography (3% MeOH in DCM) to yield 1.8 g (35%) of 4,5-dimethyl-2-(4-trifluoromethyl-phenyl)-oxazole-3-oxide as a white solid. LC/MSD m/e: 258.1 (M+H); 1H NMR (400 MHz) (Acetone-d6) δ 8.68 (d, 2H, J=8.0 Hz), 7.89 (d, 2H, J=8.0 Hz), 2.45 (s, 3H), 2.16 (s, 3H).

reactant | butane-2,3-dione monooxime | 20.4 mmol, 2.1 g | CC(C(C)=O)=NO | C4H7NO2
reactant | 4-(trifluoromethyl)benzaldehyde | 22.4 mmol, 3.0 mL | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | HCl | 4N | Cl | ClH
reactant | dioxane | 28.0 mmol, 7.0 mL | O1CCOCC1 | C4H8O2
solvent | Diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4,5-dimethyl-2-(4-trifluoromethyl-phenyl)-oxazole-3-oxide | 1.8 g, 35% | CC=1[N+](=C(OC1C)C1=CC=C(C=C1)C(F)(F)F)[O-] | C12H10F3NO2
